US07767675B2
Step 2: 6-{1-[6-(4-bromo-3-fluorophenyl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline
A mixture of 5-(4-bromo-3-fluorophenyl)pyrimidin-2-amine (0.50 g, 1.9 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (0.463 g, 1.88 mol) in ethanol (20 mL) was stirred at 100° C. overnight. The solution was concentrated and the residue was purified by chromatography on silica gel with MeOH in CH2Cl2 (0-6%) to afford the desired compound. LCMS: (M+H)=458.9.

reactant | 5-(4-bromo-3-fluorophenyl)pyrimidin-2-amine | 1.9 mmol, 0.50 g | BrC1=C(C=C(C=C1)C=1C=NC(=NC1)N)F | C10H7BrFN3
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 1.88 mol, 0.463 g | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-{1-[6-(4-bromo-3-fluorophenyl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline | BrC1=C(C=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)F | C24H16BrFN4
